data/mechanism_extracts/AdvSynthCatal/10.1002_adsc.70132.json
{"doi": "10.1002_adsc.70132", "journal": "AdvSynthCatal", "is_review": false, "rxn_class_summary": "Electrochemical oxidant- and metal-free alkoxylation-thiolation of vinyl ethers using diaryl disulfides as arylthio sources and alcohols as alkoxy sources to give alpha-thionyl acetals", "mechanism_family": ["radical_anodic", "radical_polar_crossover", "paired_electrolysis"], "electrochemical_role": "Anodic oxidation of diaryl disulfide (PhSSPh) to arylthio radical and arylthio cation; subsequent anodic oxidation of beta-thio carbon radical to carbocation; cathode performs proton reduction to H2 (and can reduce PhS+ back to PhS radical that dimerizes to PhSSPh)", "key_intermediates": [{"name": "arylthio radical (PhS•) — intermediate A", "smiles": "[S]c1ccccc1", "role": "reactive"}, {"name": "arylthio cation (PhS+) — intermediate A'", "smiles": null, "role": "reactive"}, {"name": "beta-(arylthio) alpha-alkoxy carbon radical (PhS-CH2-C•(OEt)) — intermediate B", "smiles": "CCOC([CH2])SC1=CC=CC=C1", "role": "transient"}, {"name": "alpha-alkoxy carbocation bearing beta-SPh (PhS-CH2-C+(OEt)) — intermediate C", "smiles": null, "role": "reactive"}, {"name": "TEMPO-SPh adduct (radical trap product)", "smiles": "CC1(C)CCCC(C)(C)N1OSc1ccccc1", "role": "off_pathway"}], "electron_flow": "PhSSPh is oxidized at the anode to give PhS• (A) and PhS+ (A'); PhS• adds to the vinyl ether 1a to form a C-centered radical B, which is further oxidized at the anode to oxocarbenium-type cation C; methanol attacks C and deprotonation (assisted by 4-CF3-pyridine) delivers product 4a, while protons are reduced to H2 at the cathode.", "rate_determining_step": null, "probe_reagents": [{"name": "TEMPO", "smiles": "CC1(C)CCCC(C)(C)N1[O]", "purpose": "radical_trap", "observation": "Reaction inhibited with only trace 4a; TEMPO-SPh adduct detected by HRMS (m/z 266.1571), confirming arylthio radical intermediate"}, {"name": "Cyclic voltammetry of 1a, 2a, 4-CF3Py", "smiles": null, "purpose": "redox_probe", "observation": "Neither 1a nor 4-CF3Py show oxidation peaks in the window; 2a oxidizes at 1.41 V, lowered to 1.32 V upon addition of 4-CF3Py, indicating disulfide 2a is the species oxidized at the anode and 4-CF3Py acts only as a base"}], "evidence_types_used": ["intermediate_trap_TEMPO", "cyclic_voltammetry", "isolation_of_intermediate"], "evidence_strength": "medium", "notes": "4-(Trifluoromethyl)pyridine functions as a mild, electrochemically stable base that assists deprotonation rather than as a redox mediator. An alternative fate proposed for cation A' is reaction with vinyl ether 1a directly to form C, or cathodic reduction/dimerization back to PhSSPh, constituting a partially paired electrolysis cycle."}
